US07709509B2
3.0 g 4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-chloro-benzaldehyde were dissolved in 100 ml methanol and 300 mg sodium borohydride were added. The reaction mixture was stirred at room temperature for two hours, then the solvent was removed in vacuo and the residue dissolved in 100 ml ethyl acetate. This solution was washed three times with 30 ml brine, dried over MgSO4 and the solvent was removed in vacuo to provide 3.0 g {4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-chloro-phenyl}-methanol as pale yellow solid.

reactant | 4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-chloro-benzaldehyde | 3.0 g | C(CCC)C=1N=C(SC1COC1=CC(=C(C=O)C=C1)Cl)C1=CC=C(C=C1)C(F)(F)F | C22H19ClF3NO2S
reactant | sodium borohydride | 300 mg | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | {4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-chloro-phenyl}-methanol | 3.0 g | C(CCC)C=1N=C(SC1COC1=CC(=C(C=C1)CO)Cl)C1=CC=C(C=C1)C(F)(F)F | C22H21ClF3NO2S
